US08071592B2
(e) Racemic 1,1-dimethylethyl {[4-hydroxy-1-(phenylmethyl)-3-piperidinyl]methyl}carbamate
3-(Aminomethyl)-1-(phenylmethyl)-4-piperidinol (2.67 g, 12.1 mmol) was dissolved in dichloromethane (100 mL) and a solution of di-tert-butyl dicarbonate (2.67 g, 12.2 mmol) in dichloromethane (20 ml) was then added. The reaction mixture was stirred at room temperature for 4 h. The solvent was evaporated and the residue was chromatographed on silica gel, eluting with 0-20% (2M ammonia/methanol)/dichloromethane, to give the product (3.12 g, 81%).

reactant | 3-(Aminomethyl)-1-(phenylmethyl)-4-piperidinol | 12.1 mmol, 2.67 g | NCC1CN(CCC1O)CC1=CC=CC=C1 | C13H20N2O
reactant | di-tert-butyl dicarbonate | 12.2 mmol, 2.67 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Racemic 1,1-dimethylethyl {[4-hydroxy-1-(phenylmethyl)-3-piperidinyl]methyl}carbamate | 3.12 g, 81% | OC1C(CN(CC1)CC1=CC=CC=C1)CNC(OC(C)(C)C)=O | C18H28N2O3
